US05532235
1,4,5,6-Tetrahydro-6-(4-nitrobenzoyl)pyrazolo[3,4-d]pyrido[3,2-b]azepine
As described for Reference Example 223, 8-[(dimethylamino)methylene]-5,6,7,8-tetrahydro-5-(4-nitrobenzoyl)-9H-pyrido[3,2-b]azepin-9-one is reacted with hydrazine hydrate to give the product as a solid, m.p. 255°-256° C.

reactant | 8-[(dimethylamino)methylene]-5,6,7,8-tetrahydro-5-(4-nitrobenzoyl)-9H-pyrido[3,2-b]azepin-9-one | CN(C)C=C1C(C2=C(N(CC1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C=CC=N2)=O | C19H18N4O4
reactant | hydrazine hydrate | O.NN
product | 1,4,5,6-Tetrahydro-6-(4-nitrobenzoyl)pyrazolo[3,4-d]pyrido[3,2-b]azepine | [N+](=O)([O-])C1=CC=C(C(=O)N2C3=C(C4=C(CC2)C=NN4)N=CC=C3)C=C1 | C17H13N5O3
